US09326513B2
Preparation of 3-bromo-2-(trans-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine
To a stirred suspension of 3-bromo-6-methyl-5-nitro-pyridin-2-ol (2.00 g, 8.58 mmol) in THF (8.6 mL), cis isopropylcyclohexanol (1.44 g, 8.58 mmol, 1.0 eq) and triphenylphosphine (2.73 g, 10.30 mmol, 1.2 eq) were added at room temperature under inert atmosphere (Ar). To this mixture, DIAD (diisopropyl diazodicarboxylate) (2.16 mL, 10.30 mmol, 1.2 eq) was added drop wise over 10 minutes while keeping the temperature below 40° C. The reaction mixture was stirred for 1.5 h under heating to. After this point in time, TLC indicted consumption of the starting material and the reaction mixture was allowed to reach room temperature and was quenched by adding water (20 mL). The water phase was extracted with ethyl acetate (3×20 mL). The organic layer was washed with brine (35 mL), dried over anhydrous Na2SO4 and filtered. The solvent was removed in vacuo to give a residue, which was purified by column chromatography (silica gel, heptane/ethyl acetate, v/v=1/0-9/1). Fractions containing the pure compound were collected and concentrated in vacuo to give the title compound (0.94 g, 30%) as an oil.

reactant | 3-bromo-6-methyl-5-nitro-pyridin-2-ol | 8.58 mmol, 2.00 g | BrC=1C(=NC(=C(C1)[N+](=O)[O-])C)O | C6H5BrN2O3
reactant | triphenylphosphine | 10.30 mmol, 2.73 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 10.30 mmol, 2.16 mL, 1.2 eq | [N+](=[N-])(C(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 8.6 mL | C1CCOC1 | C4H8O
product | 3-bromo-2-(trans-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine | 0.94 g, 30% | BrC=1C(=NC(=C(C1)[N+](=O)[O-])C)O[C@@H]1CC[C@H](CC1)C(C)C | C15H21BrN2O3
